US08314087B2
Methyl 1-(1-hydroxy-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylate.
A solution of 2-amino-2-methyl-1-propanol (2 mL, 24 mmol) and methyl propiolate (5 mL, 61 mmol) in MeOH (10 mL) was appropriately sealed and heated to 120° C. for 30 min with microwaves. Sodium methoxide (25 wt. % in methanol, 4 mL, 73 mmol) was added and the solution was sealed and heated again to 120° C. for 30 min with microwaves. The mixture was partioned between CH2Cl2 (60 mL) and 10% citric acid (20 mL). The aqueous was repeatedly extracted with CH2Cl2 (4×15 mL). Combined organics dried over MgSO4 then concentrated onto dry silica (20 g). The residue was purified on 120 g silica eluting with 10-40% of 5% MeOH/CH2Cl2, and isolated as a yellow solid. MS (ESI pos. ion) m/z (MH+): 226. Calc'd exact mass for C11H15NO4: 225. 1H NMR (400 MHz, Chloroform-d) δ ppm 1.66 (s, 6 H) 3.86 (s, 3 H) 3.98 (s, 2 H) 6.49 (d, J=9.54 Hz, 1 H) 7.77-7.89 (m, 1 H) 8.42 (s, 1 H). 13C NMR (101 MHz, Chloroform-d) δ ppm 22.70, 50.08, 65.04, 66.57, 107.88, 119.17, 135.92, 138.43, 162.56, 162.98.

reactant | 2-amino-2-methyl-1-propanol | 24 mmol, 2 mL | NC(CO)(C)C | C4H11NO
reactant | methyl propiolate | 61 mmol, 5 mL | C(C#C)(=O)OC | C4H4O2
reactant | Sodium methoxide | 73 mmol, 4 mL | C[O-].[Na+]
reactant | citric acid | 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeOH | 10 mL | CO | CH4O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | Methyl 1-(1-hydroxy-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylate | OCC(C)(C)N1C=C(C=CC1=O)C(=O)OC | C11H15NO4
